US05498774
Ethyl 2-methyl-3-sulfo-imidazo[1,2-a]pyridine-8-carboxylate (1.7 g) and tri-n-propylamine (2.6 g) were added to acetonitrile (17 ml). Phosphorus oxychloride (1.1 ml) was added to the mixture, keeping the inner temperature to 50°-60° C. Then, the mixture was allowed to react at the same temperature for an hour. After completion of the reaction, the mixture was concentrated under reduced pressure, and water was added to the residue. The precipitated crystals were collected by filtration, washed with water and dried to obtain ethyl 2-methyl-3-chlorosulfonyl-imidazo[1,2-a]-pyridine-8-carboxylate (1.2 g, yield 66.3%) as crystals of m.p. 182°-183° C.

reactant | Ethyl 2-methyl-3-sulfo-imidazo[1,2-a]pyridine-8-carboxylate | 1.7 g | CC=1N=C2N(C=CC=C2C(=O)OCC)C1S(=O)(=O)O | C11H12N2O5S
reactant | tri-n-propylamine | 2.6 g | C(CC)N(CCC)CCC | C9H21N
reactant | Phosphorus oxychloride | 1.1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 17 ml | C(C)#N | C2H3N
product | ethyl 2-methyl-3-chlorosulfonyl-imidazo[1,2-a]-pyridine-8-carboxylate | 1.2 g, yield 66.3% | CC=1N=C2N(C=CC=C2C(=O)OCC)C1S(=O)(=O)Cl | C11H11ClN2O4S
